US07598423B2
Combine 1-(3-bromo-phenyl)-3-dimethylamino-propanone (3.00 g, 11.8 mmol) and guanidinium chloride (1.12 g, 11.8 mmol), sodium ethoxide (5 mL, 21% wt solution in ethanol), absolute EtOH (24 mL) and heat to reflux overnight. Cool to room temperature and pour into 1% hydrochloric acid (200 mL). Extract with ethyl acetate, dry over sodium sulfate and condense to afford 4-(3-bromo-phenyl)-pyrimidin-2-ylamine (930 mg, 3.72 mmol) as a white solid. MS (m/z): 250.2 (M).

reactant | 1-(3-bromo-phenyl)-3-dimethylamino-propanone | 11.8 mmol, 3.00 g | BrC=1C=C(C=CC1)CC(CN(C)C)=O | C11H14BrNO
reactant | guanidinium chloride | 11.8 mmol, 1.12 g | [Cl-].NC(=[NH2+])N
reactant | sodium ethoxide | 5 mL | [O-]CC.[Na+]
reactant | hydrochloric acid | 200 mL | Cl | ClH
solvent | EtOH | 24 mL | CCO | C2H6O
product | 4-(3-bromo-phenyl)-pyrimidin-2-ylamine | 3.72 mmol, 930 mg | BrC=1C=C(C=CC1)C1=NC(=NC=C1)N | C10H8BrN3
